US07632838B2
To a stirred solution of 1-(4-fluoro-2-(trifluoromethyl)phenyl)piperazine (386 mg, 1.555 mmol) and 3,4-dichlorobenzene-1-sulfonyl chloride (381.8 mg, 1.555 mmol) in anhydrous dichloromethane (3 mL) was added diisopropylethylamine (1.35 mL, 7.775 mmol). The mixture was stirred at room temperature for 30 minutes. Reaction was complete as determined by TLC. The reaction mixture was diluted with dichloromethane, washed with saturated Na2CO3 (aq.), water then brine. Organic layer was dried over MgSO4. The reaction mixture was purified via flash column chromatography to yield 1-[(3,4-dichlorophenyl)sulfonyl]-4-[4-fluoro-2-(trifluoromethyl)phenyl]piperazine in 75.7% yield (538 mg) as white solid.

reactant | 1-(4-fluoro-2-(trifluoromethyl)phenyl)piperazine | 1.555 mmol, 386 mg | FC1=CC(=C(C=C1)N1CCNCC1)C(F)(F)F | C11H12F4N2
reactant | 3,4-dichlorobenzene-1-sulfonyl chloride | 1.555 mmol, 381.8 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | diisopropylethylamine | 7.775 mmol, 1.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-[(3,4-dichlorophenyl)sulfonyl]-4-[4-fluoro-2-(trifluoromethyl)phenyl]piperazine | 75.7% yield | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1CCN(CC1)C1=C(C=C(C=C1)F)C(F)(F)F | C17H14Cl2F4N2O2S
